US05332757
Using an analogous procedure to that described in the first paragraph of the portion of Example 43 which is concerned with the preparation of starting materials, 4-(2-methyl-1,3-dioxolan-2-yl)benzyl alcohol was reacted with 2,5-dibromothiazole to give 4'-(5-bromothiazol-2-yloxymethyl)acetophenone ethylene acetal in 60% yield as an oil.

reactant | 4-(2-methyl-1,3-dioxolan-2-yl)benzyl alcohol | CC1(OCCO1)C1=CC=C(CO)C=C1 | C11H14O3
reactant | 2,5-dibromothiazole | BrC=1SC(=CN1)Br | C3HBr2NS
product | 4'-(5-bromothiazol-2-yloxymethyl)acetophenone ethylene acetal | 60% yield | C1COC(C)(C2=CC=C(C=C2)COC=2SC(=CN2)Br)O1 | C14H14BrNO3S
